US05270465
a) Methyl 2-(4-methoxyphenoxy)acetimidate
Obtained using the procedure described in section a of Example 16, starting with 27.3 g (0.167 mole) of (4-methoxyphenoxy)acetonitrile [prepared according to K. J. S. Arora et al., J. Chem. Soc. C 1971, 2865] and 0.38 g (0.0167 gram-atom) of sodium in 275 ml of methanol. Reaction time: 24 hours. Yld: 23.9 g (73%), m.p. 95°-96° C. (isopropyl ether).

reactant | (4-methoxyphenoxy)acetonitrile | 0.167 mole, 27.3 g | COC1=CC=C(OCC#N)C=C1 | C9H9NO2
reactant | sodium | 0.38 g | [Na] | Na
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 275 ml | CO | CH4O
product | Methyl 2-(4-methoxyphenoxy)acetimidate | COC1=CC=C(OCC(OC)=N)C=C1 | C10H13NO3
